US05463069
N-(3,5-dichlorophenyl)-N-(2-chloro-2-propenyl)thiourea (0.30 g) was added to 90% sulfuric acid (3.5 g) at room temperature with stirring, and the mixture was heated to 90° C. and stirred at the same temperature for 1.0 hour. After cooling, water was added to the reaction mixture, which was then neutralized by addition of sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, and the residual oily material was subjected to column chromatography on silica gel, which afforded 0.16 g of 2-imino-3-(3,5-dichlorophenyl)-5-methyl-4-thiazoline (62% yield).

reactant | N-(3,5-dichlorophenyl)-N-(2-chloro-2-propenyl)thiourea | 0.30 g | ClC=1C=C(C=C(C1)Cl)N(C(=S)N)CC(=C)Cl | C10H9Cl3N2S
reactant | sulfuric acid | 3.5 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-imino-3-(3,5-dichlorophenyl)-5-methyl-4-thiazoline | 0.16 g, 62% yield | N=C1SC(=CN1C1=CC(=CC(=C1)Cl)Cl)C | C10H8Cl2N2S
